US07253286B2
6,7-Dimethoxy-4-(5-nitrothiophen-2-ylsulfanyl)quinoline
6,7-Dimethoxy-1H-quinolin-4-thione (2.21 g, 10.0 mmol), 2-bromo-5-nitrothiophene (2.29 g, 11.0 mmol) and potassium carbonate (2.07 g, 15.0 mmol) were stirred in dimethylformamide (30 ml) at room temperature for 1 hour. The reaction solution was distributed between ethyl acetate and water, the organic layer was washed with 1N aqueous sodium hydroxide, water and saturated brine and dried over anhydrous magnesium sulfate, the drying agent was filtered off and the filtrate was distilled off under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (eluent—ethyl acetate:hexane=3:1), and the fraction containing the target substance was concentrated to obtain the title compound (1.93 g, 5.54 mmol, 55%) as yellow crystals.

reactant | 6,7-Dimethoxy-1H-quinolin-4-thione | 10.0 mmol, 2.21 g | COC=1C=C2C(C=CNC2=CC1OC)=S | C11H11NO2S
reactant | 2-bromo-5-nitrothiophene | 11.0 mmol, 2.29 g | BrC=1SC(=CC1)[N+](=O)[O-] | C4H2BrNO2S
reactant | potassium carbonate | 15.0 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6,7-Dimethoxy-4-(5-nitrothiophen-2-ylsulfanyl)quinoline | 5.54 mmol, 1.93 g, 55% | COC=1C=C2C(=CC=NC2=CC1OC)SC=1SC(=CC1)[N+](=O)[O-] | C15H12N2O4S2
